US07064123B1
To a mixture of Pd(OAc)2 (17.5 mg, 0.078 mmol) and PPh3 (40.9 mg, 0.156 mmol) in dry THF (2 ml) under N2, cinnamyl alcohol (105.1 mg, 0.78 mmol) was added followed by a solution of 2-(2-morpholin-4-yl-2-oxo-ethyl)-malonic acid diethyl ester (250 mg, 0.87 mmol) and NaH (17.4 mg, 0.43 mmol) in dry THF (3 ml). BF3 (1M in THF, 1 ml, 1 mmol) was then added and the yellow solution was stirred at room temperature for 6.5 hours. The mixture was diluted with ethyl acetate (50 ml) and washed with 1N HCl (10 ml) and brine (2×20 ml). The organic layer was dried (MgSO4), concentrated in vacuum and purified by chromatography eluting with 1:1 v/v ethyl acetate-heptane mixture to give 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-allyl)-malonic acid diethyl ester as a thick, yellow oil (266.5 mg, 85%); 1H NMR (CDCl3) 7.25 (m, 5H), 6.40 (d, J=15.6 Hz, 1H), 6.1 (dt, J=15.8, 7.7 Hz), 4.2 (q, J=7.1 Hz, 4H), 3.6 (m, 6H), 3.45 (m, 2H), 3.05 (d, J=7.6 Hz, 2H), 3.0 (s, 2H), 1.25 (t, J=7.1 Hz, 6H). MS: 404 (MH+)

reactant | PPh3 | 0.156 mmol, 40.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | cinnamyl alcohol | 0.78 mmol, 105.1 mg | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | 2-(2-morpholin-4-yl-2-oxo-ethyl)-malonic acid diethyl ester | 0.87 mmol, 250 mg | C(C)OC(C(C(=O)OCC)CC(=O)N1CCOCC1)=O | C13H21NO6
reactant | NaH | 0.43 mmol, 17.4 mg | [H-].[Na+]
reactant | BF3 | 1 mmol, 1M, 1 ml | B(F)(F)F | BF3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.078 mmol, 17.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-allyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC=CC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C22H29NO6
